US06833421B1
6.5 g (19.8 mmol) 5-[(6-chlorohexyl)oxy]isophthalic acid dimethyl ester were dissolved in 65 ml tetrahydrofuran in an atmosphere of argon. The colourless solution was cooled to −25° C. and then 42 ml (41.6 mmol) of a 1 molar solution of lithiumaluminiumhydrid in tetrahydrofuran were added dropwise over a period of 30 minutes. The reaction mixture was carefully quenched in sequence first with 5 ml of methanol and then with 50 ml of a 1 molar solution of HCl in water. The suspension was stirred for 1 hour at room temperature and subsequently filtered through speedex. The solid residue was washed carefully with 100 ml of tert.-butyl-methylether. The organic phase of the filtrate was separated, washed with 100 ml of a saturated sodium bicarbonate solution and 100 ml of water, dried over magnesium sulfate, filtered and concentrated in vacuum. Column chromatography of the crude product on 250 g of silica gel using dichloromethane:methanol (9:1) as eluent gave 5 g (93%) of [3-[(6-chlorohexyl)oxy]-5-[hydroxymethyl]phenyl]methanol as a white solid.

reactant | 5-[(6-chlorohexyl)oxy]isophthalic acid dimethyl ester | 19.8 mmol, 6.5 g | COC(C1=CC(C(=O)OC)=CC(=C1)OCCCCCCCl)=O | C16H21ClO5
reactant | lithiumaluminiumhydrid | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | [3-[(6-chlorohexyl)oxy]-5-[hydroxymethyl]phenyl]methanol | 5 g, 93% | ClCCCCCCOC=1C=C(C=C(C1)CO)CO | C14H21ClO3
